US04363807
A solution of 4-nitrobenzyl 7-(2-phenylacetamido)-3-acetoxymethylenecepham-4-carboxylate (1.97 g), ethyl acetate (30 ml) and methanol (7.5 ml) was treated with ozone in a similar manner to that of Example 1 (4) to give 4-nitrobenzyl 7-(2-phenylacetamido)-3-hydroxy-3cephem-4-carboxylate (400 mg.).

reactant | 4-nitrobenzyl 7-(2-phenylacetamido)-3-acetoxymethylenecepham-4-carboxylate | 1.97 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)=COC(C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C25H23N3O8S
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | ozone | O=[O+][O-] | O3
solvent | methanol | 7.5 ml | CO | CH4O
product | 4-nitrobenzyl 7-(2-phenylacetamido)-3-hydroxy-3cephem-4-carboxylate | 400 mg | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H19N3O7S
